US06664256B1
Preparation of 3,4-bis(4-methoxyphenyl)-6-(4-cyanophenoxy)pyridazine
In a similar manner as in Example 2, 3,4-bis(4-methoxyphenyl)-6-chloropyridazine (150 mg, 0.459 mmol) and 4-cyanophenol were reacted as starting materials at 150° C. for 13 hours and post-treatment was then conducted, whereby the title compound was obtained as a pale yellow crystalline powder (108.0 mg, 57.5%). Melting point: 167.3-170.5° C. (ethyl acetate-hexane).

reactant | 3,4-bis(4-methoxyphenyl)-6-chloropyridazine | 0.459 mmol, 150 mg | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)Cl | C18H15ClN2O2
reactant | 4-cyanophenol | C(#N)C1=CC=C(C=C1)O | C7H5NO
product | 3,4-bis(4-methoxyphenyl)-6-(4-cyanophenoxy)pyridazine | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)OC1=CC=C(C=C1)C#N | C25H19N3O3
